US09107916B2
B. 2-[5-[(5-fluoro-2,3-dihydro-1H-inden-1-yl)oxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 5-fluoro-2,3-dihydro-1H-inden-1-ol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.39-2.46 (1H, m), 2.59-2.64 (1H, m), 2.90-2.98 (1H, m), 3.13-3.20 (1H, m), 5.72-5.75 (1H, m), 5.84 (1H, d, J=1.6 Hz), 6.89-6.94 (1H, m), 6.98 (1H, d, J=8.8 Hz), 7.34-7.37 (2H, m), 7.62 (1H, d, J=1.6 Hz), 7.86 (1H, s), 8.64 (1H, d, J=4.8 Hz). [M+H] Calc'd for C18H13FN4O, 321. Found, 321.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 5-fluoro-2,3-dihydro-1H-inden-1-ol | FC=1C=C2CCC(C2=CC1)O | C9H9FO
product | 2-[5-[(5-fluoro-2,3-dihydro-1H-inden-1-yl)oxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC=1C=C2CCC(C2=CC1)OC1=CC=NN1C1=NC=CC(=C1)C#N | C18H13FN4O
